US07148226B2
2-Benzyloxy-5-ethyl-benzaldehyde
n-BuLi (7.56 mL, 18.9 mmol, 2.5M in hexanes) followed by DMF (5.5 mL) were added to a cooled −78° C. solution of 1-benzyloxy-2-bromo-4-ethyl-benzene (5 g, 17.2 mmol) in THF (40 mL). The reaction was stirred at −78° C. for 1 hr and then warmed up to rt. After 2 hrs the reaction was quenched with 1N HCl and extracted with EtOAc. The organic layers were washed with brine, dried over Na2SO4 and concentrated to a yellow oil. Purification by flash column chromatography (0% to 5% EtOAc in hexanes) gave the title compound as a clear oil (3.6 g, 87%). 1H NMR (400 MHz, CDCl3): δ 1.22 (t, J=7.8 Hz, 3 H), 2.62 (q, J=7.8 Hz, 2 H), 5.17 (s, 2 H), 6.97 (d, J=8.6 Hz, 1 H), 7.33–7.45 (m, 6 H), 7.69 (s, 1 H), 10.54 (s, 1 H).

reactant | n-BuLi | 18.9 mmol, 2.5M, 7.56 mL | [Li]CCCC
reactant | DMF | 5.5 mL | CN(C)C=O | C3H7NO
reactant | 1-benzyloxy-2-bromo-4-ethyl-benzene | 17.2 mmol, 5 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)CC)Br | C15H15BrO
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 2-Benzyloxy-5-ethyl-benzaldehyde | 3.6 g, 87% | C(C1=CC=CC=C1)OC1=C(C=O)C=C(C=C1)CC | C16H16O2
